US06355669B1
(A) 3,4-Dihydroxymethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene
50 g of sodium carbonate was added at room temperature to a mixed solution of 400 ml water and 400 ml dioxane containing 10 g of the unpurified 3,4-dibromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene, and the mixture was heated under reflux for 11 hours. The dioxane was removed, and then the residue was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and then evaporated. The resulting residue was subjected to silica gel column chromatography to give 1.6 g of the title compound as a yellow oil.

reactant | sodium carbonate | 50 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 400 ml | O | H2O
reactant | 3,4-dibromomethyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | BrCC=1C=CC=2C(CCC(C2C1CBr)(C)C)(C)C | C16H22Br2
solvent | dioxane | 400 ml, 10 g | O1CCOCC1 | C4H8O2
product | 3,4-Dihydroxymethyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 1.6 g | OCC=1C=CC=2C(CCC(C2C1CO)(C)C)(C)C | C16H24O2
